US05399703
N-[2-[2-(1H-Tetrazol-5-yl)phenylthio]phenyl]-4-(4-phenylbutoxy)benzamide
In 20 ml of DMF were dissolved 1.35 g of N-[2-(2-cyanophenylthio)phenyl]-4-(4-phenylbutoxy)benzamide, 0.55 g of sodium azide and 0.46 g of ammonium chloride, and the mixture was stirred at 110°-115° C. for 5 hours. Then, 0.18 g of sodium azide and 0.15 g of ammonium chloride were further added and the mixture was stirred at 110° to 115° C. for 2 hours. After addition of ice-water, the reaction mixture was neutralized with diluted hydrochloric acid and the precipitate was collected by filtration and recrystallized from ethanol to give 0.95 g of the title compound, m.p. 156°-159° C.

reactant | N-[2-(2-cyanophenylthio)phenyl]-4-(4-phenylbutoxy)benzamide | 1.35 g | C(#N)C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O | C30H26N2O2S
reactant | sodium azide | 0.55 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.46 g | [Cl-].[NH4+]
reactant | sodium azide | 0.18 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.15 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-[2-[2-(1H-Tetrazol-5-yl)phenylthio]phenyl]-4-(4-phenylbutoxy)benzamide | 0.95 g | N1N=NN=C1C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O | C30H27N5O2S
